US04003884
c. Z-Trp-Ser-OH
4.4 g (10 mmols) of Z-Trp-Ser-OMe were dissolved in 30 ml of dioxane/water (4:1) and mixed with a spatula tip of thymolphthaleine. The mixture was titrated, while stirring, with 1N NaOH until a constant blue color was obtained. 10 ml were consumed. 10 ml of 1N hydrochloric acid were added and the reaction mixture was evaporated. The residue was distributed between ethyl acetate and water. The ethyl acetate phase was dried with Na2SO4 and concentrated. The residue was triturated with petroleum ether. Yield: 3.2 g (75%). It was recrystallized from ethyl acetate/petroleum ether. Yield: 3 g (70%), melting point: 148° C.

reactant | Z-Trp-Ser-OMe | 10 mmols, 4.4 g | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CO)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C23H25N3O6
reactant | thymolphthaleine | CC1=CC(=C(C=C1C2(C3=CC=CC=C3C(=O)O2)C4=CC(=C(C=C4C)O)C(C)C)C(C)C)O | C28H30O4
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dioxane water | 30 ml | O1CCOCC1.O
product | Z-Trp-Ser-OH | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CO)C(=O)O)C(=O)OCC1=CC=CC=C1 | C22H23N3O6
